US09062032B2
Lithium hexamethyldisilazide (1.0 M in THF) 1.1 mL was added dropwise to a mixture of 200 mg of methyl 2,2-dimethyl-5-oxo-5-{[3-(4-oxo-5,6,7,8-tetrahydro-4H-[1]benzothieno[2,3-d][1,3]oxazin-2-yl)benzyl](pentan-3-yl)amino}pentanoate, 90 mg of 4-[2-(morpholin-4-yl)ethyl]aniline, and 5.0 mL of THF under ice cooling, followed by stirring for 30 minutes at the same temperature. A saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1), thereby obtaining 164 mg of methyl 2,2-dimethyl-5-[(3-{[3-({4-[2-(morpholin-4-yl)ethyl]phenyl}carbamoyl)-4,5,6,7-tetrahydro-1-benzothiophen-2-yl]carbamoyl}benzyl)(pentan-3-yl)amino]-5-oxopentanoate.

reactant | Lithium hexamethyldisilazide | 1.0 M, 1.1 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | methyl 2,2-dimethyl-5-oxo-5-{[3-(4-oxo-5,6,7,8-tetrahydro-4H-[1]benzothieno[2,3-d][1,3]oxazin-2-yl)benzyl](pentan-3-yl)amino}pentanoate | 200 mg | CC(C(=O)OC)(CCC(N(C(CC)CC)CC1=CC(=CC=C1)C=1OC(C2=C(N1)SC1=C2CCCC1)=O)=O)C | C30H38N2O5S
reactant | 4-[2-(morpholin-4-yl)ethyl]aniline | 90 mg | N1(CCOCC1)CCC1=CC=C(N)C=C1 | C12H18N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | methyl 2,2-dimethyl-5-[(3-{[3-({4-[2-(morpholin-4-yl)ethyl]phenyl}carbamoyl)-4,5,6,7-tetrahydro-1-benzothiophen-2-yl]carbamoyl}benzyl)(pentan-3-yl)amino]-5-oxopentanoate | 164 mg | CC(C(=O)OC)(CCC(=O)N(C(CC)CC)CC1=CC(=CC=C1)C(NC=1SC2=C(C1C(NC1=CC=C(C=C1)CCN1CCOCC1)=O)CCCC2)=O)C | C42H56N4O6S
